US05677346
reacting methyl α-cyclohexyl-α-hydroxybenzeneacetate with said 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butyn-1-ol in the presence of sodium methoxide in toluene to produce 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate; and

reactant | methyl α-cyclohexyl-α-hydroxybenzeneacetate | C1(CCCCC1)C(C(=O)OC)(C1=CC=CC=C1)O | C15H20O3
reactant | 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butyn-1-ol | C(C)N(CC#CCO)CC1=CC=C(C=C1)OC | C14H19NO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate | C1(CCCCC1)C(C(=O)OCC#CCN(CC)CC1=CC=C(C=C1)OC)(C1=CC=CC=C1)O | C28H35NO4
